US06476053B1
3-(2-Aminoethylthio)-1-nonylpyrrolidine-2,5-dione
A mixture of N-nonyl maleimide (0.01 M) prepared as described in Example 12 above, mercapto ethylamine (0.01 M) and triethylamine (0.001 M) in acetonitrile (50 ml) was stirred for 24 hours at room temperature. Acetonitrile was evaporated in vacuo and the residue obtained was triturated with ethyl acetate (25 ml). The resultant suspension was filtered and the solid washed with ethyl acetate. The solid was then dried and characterised as the desired product, N-nonyl,3-mercapto ethylamino maleimide.

reactant | N-nonyl maleimide | 0.01 M | C(CCCCCCCC)N1C(C=CC1=O)=O | C13H21NO2
reactant | mercapto ethylamine | 0.01 M | SCCN | C2H7NS
reactant | triethylamine | 0.001 M | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 3-(2-Aminoethylthio)-1-nonylpyrrolidine-2,5-dione | NCCSC1C(N(C(C1)=O)CCCCCCCCC)=O | C15H28N2O2S
